US06667331B2
F. 2-Allyloxycarbonylamino-2-[3-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-isoxazol-5-ylmethyl]-malonic Acid Diethyl Ester
A dimethyl formamide (260 mL) solution of 2-(5-Bromomethyl-isoxazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (7.29 g, 56 mmol) and 2-allyloxycarbonylamino-malonic acid diethyl ester (8.25 g, 32 mmol) was cooled to 0° C. and cesium carbonate (25.41 g, 78 mmol) was added. The reaction was allowed to warm to room temperature and stirred for 3 hours. The reaction mixture was then poured into diethyl ether (2 L) and washed with water (5×200 mL) and brine. The organic portion was dried over magnesium sulfate and concentrated in vacuo. The crude residue was chromatographed on silica gel eluting with ethyl acetate:hexane (3:7) to afford the title compound as a clear colorless oil (10.95 g; 83%). MS (Cl) m/z 260.1 (M-99).

reactant | dimethyl formamide | 260 mL | CN(C=O)C | C3H7NO
reactant | 2-(5-Bromomethyl-isoxazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 56 mmol, 7.29 g | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NOC(=C1)CBr | C13H19BrN2O3
reactant | 2-allyloxycarbonylamino-malonic acid diethyl ester | 32 mmol, 8.25 g | C(C)OC(C(C(=O)OCC)NC(=O)OCC=C)=O | C11H17NO6
reactant | cesium carbonate | 78 mmol, 25.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | diethyl ether | 2 L | C(C)OCC | C4H10O
product | 2-Allyloxycarbonylamino-2-[3-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-isoxazol-5-ylmethyl]-malonic Acid Diethyl Ester | 10.95 g, 83% | C(C)OC(C(C(=O)OCC)(CC1=CC(=NO1)C1N(CCC1)C(=O)OC(C)(C)C)NC(=O)OCC=C)=O | C24H35N3O9
